US06060477
7-Amino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (1.55 g) was heated in ethanolic ammonia (50 ml) in a pressure vessel for 8 hours at 90° C. and then for 8 hours at 145° C. After cooling a grey solid (0.64 g) was collected and was recrystallized from ethanol (with charcoal) to yield a crude product (0.47 g) which was recrystallized from ethanol to yield the title compound, 0.29 g, m.p. 261-262° C.

reactant | 7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 1.55 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | ammonia | 50 ml | N | H3N
product | 7-Amino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H15N5O2
